US09108936B2
To a solution of 4-bromo-2,6-difluoro-benzonitrile (15.0 g, 68.8 mmol) in tetrahydrofuran (150 ml) is added sodium methoxide (4.5 g, 82.6 mmol) at room temperature and the mixture is stirred for 16 h. The reaction mixture is concentrated under reduced pressure and the resulting solid is purified by column chromatography (silica gel, 5% ethyl acetate/hexane) to obtain 4-bromo-2-fluoro-6-methoxy-benzonitrile (8.5 g, 36.9 mmol, 53%).

reactant | 4-bromo-2,6-difluoro-benzonitrile | 68.8 mmol, 15.0 g | BrC1=CC(=C(C#N)C(=C1)F)F | C7H2BrF2N
reactant | sodium methoxide | 82.6 mmol, 4.5 g | C[O-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-bromo-2-fluoro-6-methoxy-benzonitrile | 36.9 mmol, 8.5 g, 53% | BrC1=CC(=C(C#N)C(=C1)OC)F | C8H5BrFNO
